US04115385
To a stirred solution of 189 mg of 6-amino-2,2-dimethyl-3-(1-[4-benzyloxybenzyl]tetrazol-5-yl)penam in 4 ml of chloroform, is added, at ambient temperature, 0.038 ml of pyridine followed by 0.057 ml of phenylacetyl chloride. Stirring is continued for a further 45 minutes, and then the reaction mixture is diluted with 25 ml of chloroform and then washed with water. The organic phase is dried using anhydrous magnesium sulfate and then evaporated in vacuo. The residue is 209 mg (86% yield) of 6-(2-phenylacetamido)-2,2-dimethyl-3-(1-[4-benzyloxybenzyl]tetrazol-5-yl)penam. The NMR spectrum (in CDCl3) shows absorptions at 7.50-6.70 ppm (multiplet, aromatic hydrogens), 6.4 ppm (doublet, amide hydrogen), 5.80-5.20 ppm (multiplet, benzyl hydrogens and C-5 and C-6 hydrogens), 5.10 ppm (singlet, C-3 hydrogen), 5.05 ppm (singlet, benzyl hydrogens), 3.60 ppm (singlet, phenylacetyl methylene hydrogens), 1.30 ppm (singlet, C-2 methyl hydrogens) and 0.85 ppm (singlet, C-2 methyl hydrogens).

reactant | 6-amino-2,2-dimethyl-3-(1-[4-benzyloxybenzyl]tetrazol-5-yl)penam | 189 mg | NC1[C@@H]2N(C(C(S2)(C)C)C2=NN=NN2CC2=CC=C(C=C2)OCC2=CC=CC=C2)C1=O | C22H24N6O2S
reactant | pyridine | 0.038 ml | N1=CC=CC=C1 | C5H5N
reactant | phenylacetyl chloride | 0.057 ml | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
solvent | chloroform | 4 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
product | 6-(2-phenylacetamido)-2,2-dimethyl-3-(1-[4-benzyloxybenzyl]tetrazol-5-yl)penam | 209 mg, 86% yield | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(C(S2)(C)C)C2=NN=NN2CC2=CC=C(C=C2)OCC2=CC=CC=C2)C1=O | C30H30N6O3S
